US07320972B2
2-(Allyloxy)-4-bromobenzaldehyde (5.05 g, 20.9 mmol) was dissolved with warming in isopropanol (18 mL). Freshly distilled aniline (1.99 g, 21.3 mmol) was added with isopropanol (4 mL) and the reaction was heated to 50° C. A yellow precipitate formed within 30 min and isopropanol (5 mL) was added to aid stirring. The reaction was stirred at 50° C. for 16 h, by which time proton NMR showed no aldehyde present. The reaction was cooled with stirring. The mixture was diluted with hexane (20 mL), the solid was filtered and washed with the mother liquor, washed with hexane and air dried to afford N-{(1E)-[2-(allyloxy)-4-bromophenyl]methylene}aniline (5.69 g, 86% yield) as a light yellow powder; 1H NMR (300 MHz, CDCl3) δ 8.87 (s, 1H), 8.03 (d, J=8.4 Hz, 1H), 7.43-7.36 (m, 2H), 7.27-7.17 (m, 4H), 7.099 (d, J=1.8 Hz, 1H), 6.06 (ddt, J=17.2, 10.5, 5.3 Hz, 1H), 5.43 (AB q, J=17.3, 3.0 Hz, 1H), 5.33 (AB q, J=10.5, 2.8 Hz, 1H), 4.62 (ddd, J=5.2, 1.5, 1.5 Hz, 2H) ppm.

reactant | 2-(Allyloxy)-4-bromobenzaldehyde | 20.9 mmol, 5.05 g | C(C=C)OC1=C(C=O)C=CC(=C1)Br | C10H9BrO2
reactant | aniline | 21.3 mmol, 1.99 g | NC1=CC=CC=C1 | C6H7N
solvent | isopropanol | 18 mL | C(C)(C)O | C3H8O
solvent | hexane | 20 mL | CCCCCC | C6H14
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 4 mL | C(C)(C)O | C3H8O
product | N-{(1E)-[2-(allyloxy)-4-bromophenyl]methylene}aniline | 5.69 g, 86% yield | C(C=C)OC1=C(C=CC(=C1)Br)\C=N\C1=CC=CC=C1 | C16H14BrNO
